US04076820
1-(9-Chloro-1,3,4,6,7,11b-Hexahydro-2H-benzo[a]quinolizin-2-yl)-phenyl urea
2-Amino-9-chloro-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizine [prepared from 9-chloro-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizin-2-one (Neth.Appln. No. 6,508,468) by reduction of the oxime] is reacted with phenyl isocyanate by a procedure analogous to that of Example 1 to give the title compound.

reactant | 2-Amino-9-chloro-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizine | NC1CCN2CCC3=C(C2C1)C=CC(=C3)Cl | C13H17ClN2
reactant | 9-chloro-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizin-2-one | ClC1=CC2=C(C3CC(CCN3CC2)=O)C=C1 | C13H14ClNO
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
product | 1-(9-Chloro-1,3,4,6,7,11b-Hexahydro-2H-benzo[a]quinolizin-2-yl)-phenyl urea | ClC1=CC2=C(C3CC(CCN3CC2)C2(CC=CC=C2)NC(=O)N)C=C1 | C20H24ClN3O
